US03998958
Conversion of the hydrochloride salt of 2-imino-1-methylpyrrolidine (6.73 g.; 0.05 mole) to the free base (4.9 g. assuming 100% conversion) is carried out in the usual manner. After drying over K2CO3, the benzene layer is stirred at room temperature and 9.36 g. (0.05 mole) of m-trifluoromethylphenylisocyanate is added (some solid precipitates). The reaction mixture is stirred overnight. The resulting solid is collected, m.p. = 155°-156° C. The benzene filtrate, upon removal of the solvent, affords an additional crop of solid material, m.p. 131°-137° C. Recrystallizations of the combined solids from acetone-pet. ether gives the pure product, 1-(1-methyl-2-pyrrolidylidene)-3-(m-trifluoromethylphenyl)urea, m.p. = 155°-156.5° C.

reactant | 2-imino-1-methylpyrrolidine | 0.05 mole, 6.73 g | N=C1N(CCC1)C | C5H10N2
reactant | m-trifluoromethylphenylisocyanate | 0.05 mole | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
product | 1-(1-methyl-2-pyrrolidylidene)-3-(m-trifluoromethylphenyl)urea | CN1C(CCC1)=NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H14F3N3O
